US05753664
1-[4-(4-Chlorobenzoyl)benzyl]-5-methyl-1H-imidazo[4,5-d]pyridazin-4(5H)-one
A solution of methylhydrazine (472 mg) and ethyl 1-[4-(4-chlorobenzoyl)benzyl]-5-formylimidazole-4-carboxylate (1.03 g) in ethanol (20 ml) was refluxed for 3 hours. After cooling to room temperature, concentrated sulfuric acid (0.2 ml) was added and the mixture was further refluxed for 21 hours. This reaction mixture was diluted with water and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (developer; chloroform:methanol=19:1) to provide the title compound as white powder (66 mg, yield 7%). 1H-NMR (CDCl3) δ: 3.90(3H,s), 5.47(2H,s), 7.31(2H,d,J=8.4Hz), 7.48(2H,d,J=8.4Hz), 7.73(2H,d,J=8.4Hz), 7.81(2H,d,J=8.4Hz), 7.92(1H,s), 8.00(1H,s).

reactant | methylhydrazine | 472 mg | CNN | CH6N2
reactant | ethyl 1-[4-(4-chlorobenzoyl)benzyl]-5-formylimidazole-4-carboxylate | 1.03 g | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC(=C3C=O)C(=O)OCC)C=C2)C=C1 | C21H17ClN2O4
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[4-(4-Chlorobenzoyl)benzyl]-5-methyl-1H-imidazo[4,5-d]pyridazin-4(5H)-one | 66 mg, yield 7% | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC4=C3C=NN(C4=O)C)C=C2)C=C1 | C20H15ClN4O2
